US08389511B2
1-Acetyl-6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one
To 1-acetyl-6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one (9.5 g) were added NaH (1.57 g), methyl iodide (2.45 ml) and THF (70 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. This ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (5.2 g) as a colorless crystal.

reactant | 1-acetyl-6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one | 9.5 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Br)C)=O | C11H10BrNO2
reactant | NaH | 1.57 g | [H-].[Na+]
reactant | methyl iodide | 2.45 ml | CI | CH3I
reactant | THF | 70 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-Acetyl-6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 5.2 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Br)(C)C)=O | C12H12BrNO2
